US04826844
(a) 1-[(3-Methoxyphenyl)acetyl]-4-(phenylmethyl)piperazine
3-Methoxyphenylacetic acid (100 g, 600 mmole) was dissolved in methylene chloride (600 mL) and treated with oxalyl chloride (60 mL) and DMF (1 mL) at room temperature. The mixture was stirred for four hours until gas evolution ceased. The solvent was evaporated and the residue dried under vacuum to remove excess oxalyl chloride. The oil obtained was dissolved in methylene chloride (400 mL). Half of this solution (200 mL, approx. 300 mmole) was cooled in ice and treated with a solution of 1-benzylpiperazine (60 mL, 350 mmole) and triethylamine (30 mL) in methylene chloride (100 mL) dropwise. The mixture was stirred at room temperature for 16 hours. Sodium bicarbonate solution was added and the mixture stirred for 15 minutes. The layers were separated. The organic phase was washed with water, brine, dried over K2CO3 and evaporated to an oil. Wt. 90 g. A small portion was characterized as the hydrochloride, m.p. 229°-231° C.

reactant | 3-Methoxyphenylacetic acid | 600 mmole, 100 g | COC=1C=C(C=CC1)CC(=O)O | C9H10O3
reactant | oxalyl chloride | 60 mL | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | 1-benzylpiperazine | 350 mmole, 60 mL | C(C1=CC=CC=C1)N1CCNCC1 | C11H16N2
reactant | Sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | methylene chloride | 600 mL | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 400 mL | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 100 mL | C(Cl)Cl | CH2Cl2
solvent | triethylamine | 30 mL | C(C)N(CC)CC | C6H15N
solvent | DMF | 1 mL | CN(C)C=O | C3H7NO
product | 1-[(3-Methoxyphenyl)acetyl]-4-(phenylmethyl)piperazine | COC=1C=C(C=CC1)CC(=O)N1CCN(CC1)CC1=CC=CC=C1 | C20H24N2O2
